US05306718
(b) N-(2,5-Hexadiynyl)oxyphthalimide
Diethyl azodicarboxylate (24 mL, 117 mmol) was added dropwise to a solution of N-hydroxyphthalimide (17.33 g, 106 mmol), triphenylphosphine (27.9 g, 106 mmol) and 2,5-hexadiyn-1-ol (10 g, 106 mmol) in 400 mL of tetrahydrofuran and stirred for 72 hours at room temperature. The reaction was evaporated in vacuo to give a yellow solid that was purified by column chromatography (silica gel), eluting with dichloromethane to give a light yellow solid. This was recrystallized from ethanol to give 15.3 g of the title product, m.p. 134°-135° C.

reactant | Diethyl azodicarboxylate | 117 mmol, 24 mL | N(=NC(=O)OCC)C(=O)OCC | C6H10N2O4
reactant | N-hydroxyphthalimide | 106 mmol, 17.33 g | ON1C(C=2C(C1=O)=CC=CC2)=O | C8H5NO3
reactant | triphenylphosphine | 106 mmol, 27.9 g | C1(=CC=CC=C1)P(C1=CC=CC=C1)C1=CC=CC=C1 | C18H15P
reactant | 2,5-hexadiyn-1-ol | 106 mmol, 10 g | C(C#CCC#C)O | C6H6O
solvent | tetrahydrofuran | 400 mL | O1CCCC1 | C4H8O
product | N-(2,5-Hexadiynyl)oxyphthalimide | 15.3 g | C(C#CCC#C)ON1C(C=2C(C1=O)=CC=CC2)=O | C14H9NO3
